US08633186B2
2-Nitro-6-(((3aR,5aS,8aS,8bS)-2,2,7,7-tetramethyltetrahydro-3aH-bis[1,3]dioxolo[4,5-b:4′,5′-d]pyran-5-yl)methoxy)benzonitrile
Prepared as in Example 111c from 2,6 dinitrobenzonitrile and ((3aR,5aS,8as,8bS)-2,2,7,7-tetramethyltetrahydro-3aH-bis[1,3]dioxolo[4,5-b:4′,5′-d]pyran-5-yl)methanol in 59% yield as white sticky material. MS 408 (MH+), 424 (MH2O+).

reactant | 2,6 dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | ((3aR,5aS,8as,8bS)-2,2,7,7-tetramethyltetrahydro-3aH-bis[1,3]dioxolo[4,5-b:4′,5′-d]pyran-5-yl)methanol | CC1(O[C@@H]2[C@H](OC([C@H]3[C@@H]2OC(O3)(C)C)CO)O1)C | C12H20O6
product | 2-Nitro-6-(((3aR,5aS,8aS,8bS)-2,2,7,7-tetramethyltetrahydro-3aH-bis[1,3]dioxolo[4,5-b:4′,5′-d]pyran-5-yl)methoxy)benzonitrile | 59% yield | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)OCC1[C@H]2[C@@H]([C@H]3[C@H](O1)OC(O3)(C)C)OC(O2)(C)C | C19H22N2O8
